US05486638
1-Bromo-3-tri-n-butylsilanyl-benzene is prepared in a manner analogous to the procedure described in examples 1 and 1a utilizing 1,3-dibromobenzene and chloro-tri-n-butylsilane as the ClSiR1R2R3 compound.

reactant | 1,3-dibromobenzene | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | chloro-tri-n-butylsilane | Cl[Si](CCCC)(CCCC)CCCC | C12H27ClSi
product | 1-Bromo-3-tri-n-butylsilanyl-benzene | BrC1=CC(=CC=C1)[Si](CCCC)(CCCC)CCCC | C18H31BrSi
